US07582642B2
(2S3R)-3-{(9-Isopropyl-6-[(pyridin-3-ylmethyl)-amino]-9H-purin-2-ylamino}-pentan-2-ol
To a stirred solution of (2-fluoro-9-isopropyl-9H-purin-6-yl)-pyridin-3-ylmethyl-amine (30 mg, 1 eq, 0.10 mmol) in n-BuOH/DMSO (2.5 mL, 4:1) at room temperature under an argon atmosphere was added DIEA (0.2 mL, 10.96 eq, 1.14 mmol) followed by (2S,3R)-3-amino-pentan-2-ol (60 mg, 5.5 eq, 0.58 mmol). The reaction mixture was placed in a preheated oil bath at 160° C. and stirred at this temperature for 72 h. The reaction mixture was allowed to cool to room temperature and the solvent was evaporated in vacuo. The residue was partitioned between EtOAc (50 mL) and water (50 mL), the aqueous phase was extracted with more EtOAc (2×25 mL), and the combined organic phase was washed with brine (50 mL), dried (MgSO4) and evaporated in vacuo. The residue was purified by gradient column chromatography on silica gel eluted with CHCl3:MeOH (100:0→98:2), to afford the title compound as a white solid. Yield: 22 mg (57%). (80% de 3R,2S: 20% de 3R,2R). 1H-NMR (d-CDCl3, 250 MHz): δ 0.90, 1.05 (2×t, 3H, J=6.95 & 7.42 Hz, —NHCH (CH2CH3)CH(CH3)OH), 1.17 & 1.25 (2×d, 3H, J=6.32 & 6.16 Hz, —NHCH (CH2CH3)CH(CH3)OH) 1.57 (d, 6H, J=6.79 Hz, —CH(CH3)2), 1.77-2.09 (m, 2H, —NHCH(CH2CH3)CH(CH3)OH), 3.91-4.03 (m, 2H, —NHCH(CH2CH3)CH(CH3)OH), 4.58-4.69 (m, 1H, —CH(CH3)2), 4.83-5.00 (m, 3H, —HNCH2-Pyr & OH), 6.16 (m, 1H, —NHCH(CH2CH3)CH(CH3)OH), 7.24-7.33 (m, 3H, 2×Pyr-H & —N═CH—N—), 7.55 (m, 1H, Pyr-H), 7.74 (d, 1H, J=7.42 Hz, Pyr-H), 8.67 (m, 1H, HNCH2-Pyr). FABMS m/z (relative intensity): 370 ([M+H]+, 100), 324 (35), 289 (37), 243 (65), 199 (85). Accurate Mass (M+H): Actual: 370.2355, Measured: 370.2347.

reactant | (2-fluoro-9-isopropyl-9H-purin-6-yl)-pyridin-3-ylmethyl-amine | 0.10 mmol, 30 mg, 1 eq | FC1=NC(=C2N=CN(C2=N1)C(C)C)NCC=1C=NC=CC1 | C14H15FN6
reactant | DIEA | 1.14 mmol, 0.2 mL, 10.96 eq | CCN(C(C)C)C(C)C | C8H19N
reactant | (2S,3R)-3-amino-pentan-2-ol | 0.58 mmol, 60 mg, 5.5 eq | N[C@@H]([C@H](C)O)CC | C5H13NO
solvent | n-BuOH DMSO | 2.5 mL | CCCCO.CS(=O)C
product | (9-Isopropyl-6-[(pyridin-3-ylmethyl)-amino]-9H-purin-2-ylamino}-pentan-2-ol | C(C)(C)N1C2=NC(=NC(=C2N=C1)NCC=1C=NC=CC1)NCC(CCC)O | C19H27N7O
